US04602014
2-p-Chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one is treated with an excess of acetic anhydride with heating to obtain 8-acetyl-2-p-chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one, mp above 350°; IR: 1640, 1670 cm-1.

reactant | 2-p-Chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCNCC23)C1=O | C15H13ClN4O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 8-acetyl-2-p-chlorophenyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one | C(C)(=O)N1CC=2C=3C(=CNC2CC1)C(N(N3)C3=CC=C(C=C3)Cl)=O | C17H15ClN4O2
